US07507740B2
(iii) Production of 2-(methylsulfonyl)-N-{2-[4-({3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}acetamide
A solution of 5-(2-aminoethyl)-N-{3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine (174 mg), 2-(methylsulfonyl)acetic acid (54 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (112 mg), 1-hydroxybenzotriazole monohydrate (79 mg) and triethylamine (0.273 mL) in N,N-dimethylformamide (7.69 mL) was stirred at room temperature for 16 hrs. The reaction mixture was diluted with ethyl acetate (80 mL), and washed with water (60 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→92:8), and crystallized from diisopropyl ether to give the title compound (92 mg) as colorless crystals.

reactant | 5-(2-aminoethyl)-N-{3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 174 mg | NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)OC(F)(F)F)C | C22H20F3N5O2
reactant | 2-(methylsulfonyl)acetic acid | 54 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 112 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 79 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 7.69 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.273 mL | C(C)N(CC)CC | C6H15N
product | 2-(methylsulfonyl)-N-{2-[4-({3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}acetamide | 92 mg | CS(=O)(=O)CC(=O)NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)OC(F)(F)F)C | C25H24F3N5O5S
